US08703742B2
4-Chloro-2-ethoxy-6-formylphenyl trifluoromethanesulfonate
To a solution of 5-chloro-3-ethoxy-2-hydroxybenzaldehyde (2.0 g, 10.0 mmol) in pyridine (2 mL) and DCM (20 mL) at 0° C. was dropwise added trifluoromethanesulfonic anhydride (1 mL). The reaction was stirred for 1 h at 0° C. before quenched with ice-water. The organic layer was washed with sat. aqueous NaHCO3 (20 mL) and brine (20 mL), dried over anhydrous Na2SO4 and then concentrated in vacuo. The residue was purified by column chromatography on silica gel to give target compound (2.0 g, yield: 60%).

reactant | 5-chloro-3-ethoxy-2-hydroxybenzaldehyde | 10.0 mmol, 2.0 g | ClC=1C=C(C(=C(C=O)C1)O)OCC | C9H9ClO3
reactant | trifluoromethanesulfonic anhydride | 1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-ethoxy-6-formylphenyl trifluoromethanesulfonate | 2.0 g, yield: 60% | FC(S(=O)(=O)OC1=C(C=C(C=C1C=O)Cl)OCC)(F)F | C10H8ClF3O5S
